US05455273
b) trans-4-(4-aminocarbonylmethyl-methylaminomethyl-phenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine
from trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-methylaminomethylphenyl)cyclohexylamine and chloroacetamide. Melting point: 138°-140° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-methylaminomethylphenyl)cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CNC)C=C1 | C22H27ClN2O
reactant | chloroacetamide | ClCC(=O)N | C2H4ClNO
product | trans-4-(4-aminocarbonylmethyl-methylaminomethyl-phenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine | NC(=O)CC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)C(C1=CC=C(C=C1)Cl)=O)CNC | C24H30ClN3O2
